US05804601
3) 6-(1,4-Dimethoxy-3-methylnaphthalen-2-yl)-5-hexenoic acid
To a suspension of 1 g of 1,4-dimethoxy-3-methylnaphthalene-2-carbaldehyde and 3.85 g of (4-carboxybutyl)triphenylphosphonium bromide in 2.5% t-BuOH/toluene at 60° C. was added 1.95 g of potassium t-butoxide. The mixture was stirred at 60° C. for 30 min, extracted with 1N NaOH, and washed with toluene. The aqueous layer was neutralized with iN HCl until pH 4-5, then extracted with ethyl acetate. The organic layer was washed, dried, and concentrated, then the trsidue was purified with column chromatography over silica gel using n-hexane/ethyl acetate (2/1) as an eluent to give 0.9 g of the titled compound as an oil.

reactant | 1,4-dimethoxy-3-methylnaphthalene-2-carbaldehyde | 1 g | COC1=C(C(=C(C2=CC=CC=C12)OC)C)C=O | C14H14O3
reactant | (4-carboxybutyl)triphenylphosphonium bromide | 3.85 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 1.95 g | CC(C)([O-])C.[K+]
solvent | t-BuOH toluene | CC(C)(C)O.C1(=CC=CC=C1)C
product | 6-(1,4-Dimethoxy-3-methylnaphthalen-2-yl)-5-hexenoic acid | 0.9 g | COC1=C(C(=C(C2=CC=CC=C12)OC)C)C=CCCCC(=O)O | C19H22O4
